US04021536
Magnesium β-alaninate was prepared by reacting 3.6 g. of β-alanine with 1.8 g. of basic magnesium carbonate in 40 g. of water, while agitating at 75° C. for one half hour. To the cooled slurry was added 2.5 g. of sodium tartrate. After five minutes of stirring, 80 g. of zirconyl hydroxychloride solution (14.4% Zr) was added to the above slurry with agitation. The solution cleared on stirring and had a final pH of 3.3. The product was oven-dried at 55° C. under a vacuum of 40 cm. of Hg and found to contain 33.1% Zr, 1.3% Mg, 1.4% Na, and 10.3% β-alanine.

reactant | β-alanine | NCCC(=O)O | C3H7NO2
reactant | magnesium carbonate | C([O-])([O-])=O.[Mg+2]
reactant | sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
reactant | hydroxychloride | OCl | ClHO
solvent | water | O | H2O
product | Magnesium β-alaninate | NCCC(=O)[O-].[Mg+2].NCCC(=O)[O-] | InChI=1S/2C3H7NO2.Mg/c2*4-2-1-3(5)6;/h2*1-2,4H2,(H,5,6);/q;;+2/p-2
